US05280032
A mixture of 13.2 g of potassium tert-butoxide and 47.2 ml of 2-(N,N-dimethylamino)ethanol was heated to 80° C. Thereto was dropwise added 40.0 g of 2-(1-naphthyl)oxirane in 3.5 hours. The resulting mixture was stirred for 1.5 hours at 80°-85° C. The reaction mixture was cooled and added to a mixture of 100 ml of ethyl acetate and 100 ml of ice water. The resulting mixture was adjusted to pH 11.5 with 6N hydrochloric acid. The organic layer was separated. The aqueous layer was extracted with 50 ml of ethyl acetate. The extract was combined with the previously separated organic layer. The combined organic layer was washed with water and a saturated aqueous sodium chloride solution in this order, and dried over anhydrous magnesium sulfate The solvent was removed by distillation under reduced pressure. The residue thus obtained was subjected to distillation to obtain a fraction having a boiling point of 152°-163° C./0.6-0.8 mmHg. The oily product obtained was dissolved in 200 ml of acetone. Into the solution was blown hydrogen chloride gas with ice cooling. The resulting crystals were collected by filtraiton, washed with acetone, and dried to obtain 22.7 g of 2-[2-(N,N-dimethylamino)ethoxy]-1-(1-naphthyl)ethanol hydrochloride (compound No. 228).

reactant | potassium tert-butoxide | 13.2 g | CC(C)([O-])C.[K+]
reactant | 2-(N,N-dimethylamino)ethanol | 47.2 ml | CN(C)CCO | C4H11NO
reactant | 2-(1-naphthyl)oxirane | 40.0 g | C1(=CC=CC2=CC=CC=C12)C1OC1 | C12H10O
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | acetone | 200 ml | CC(=O)C | C3H6O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 2-[2-(N,N-dimethylamino)ethoxy]-1-(1-naphthyl)ethanol hydrochloride | 22.7 g | Cl.CN(C)CCOCC(O)C1=CC=CC2=CC=CC=C12 | InChI=1S/C16H21NO2.ClH/c1-17(2)10-11-19-12-16(18)15-9-5-7-13-6-3-4-8-14(13)15;/h3-9,16,18H,10-12H2,1-2H3;1H
